US09315517B2
The solution of (5-amino-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-(2-pyrrolidin-1-yl-ethyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-4-ylamino)-acetic acid ethyl ester (80.00 mg; 0.13 mmol; 1.00 eq.) in EtOH (10 mL) was refluxed for 15 hours. After reverse phase HPLC purification, 4-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-(2-pyrrolidin-1-yl-ethyl)-1H-imidazol-2-yl]-piperidin-1-yl}-7,8-dihydro-5H-pteridin-6-one (55 mg, 74% yield) was obtained; LC/MS: 559 (M+H);

reactant | (5-amino-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-(2-pyrrolidin-1-yl-ethyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-4-ylamino)-acetic acid ethyl ester | 0.13 mmol, 80.00 mg, 1.00 eq. | C(C)OC(CNC1=NC=NC(=C1N)N1CCC(CC1)C=1N(C=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)CCN1CCCC1)=O | C29H36F4N8O2
solvent | EtOH | 10 mL | CCO | C2H6O
product | 4-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-(2-pyrrolidin-1-yl-ethyl)-1H-imidazol-2-yl]-piperidin-1-yl}-7,8-dihydro-5H-pteridin-6-one | 55 mg, 74% yield | FC1=C(C=C(C=C1)C=1N=C(N(C1)CCN1CCCC1)C1CCN(CC1)C1=NC=NC=2NCC(NC12)=O)C(F)(F)F | C27H30F4N8O
